US07713994B2
(4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (0.15 g, 0.54 mmol) and [4-(4-methyl-1,4-diazepan-1-yl)phenyl]amine (0.11 g, 0.54 mmol) were stirred in N,N-dimethylformamide (3 mL) with triethylamine (0.3 mL). The reaction mixture is quenched by the addition of water. The solid material is then collected, washed with diethyl ether, water, and methanol. The crude material is dissolved in a minimum of 5% methanol in chloroform and then passed through a Florisil plug, eluting with 5% methanol in chloroform. The filtrate is concentrated under reduced pressure to give and then dried under vacuum to give (4Z)-6-bromo-4-({[4-(4-methyl-1,4-diazepan-1-yl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione (64 mg, 26%) as a rust colored powder.

reactant | (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.54 mmol, 0.15 g | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | [4-(4-methyl-1,4-diazepan-1-yl)phenyl]amine | 0.54 mmol, 0.11 g | CN1CCN(CCC1)C1=CC=C(C=C1)N | C12H19N3
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-bromo-4-({[4-(4-methyl-1,4-diazepan-1-yl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 64 mg, 26% | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)N1CCN(CCC1)C | C22H23BrN4O2
